US08283353B2
1-benzyl-N-(4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-5-amine
To a solution of 1-benzyl-1H-pyrazol-5-amine (6.3 g) in acetic acid (70 mL) was added 4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexanone (10 g) and the mixture was stirred for 30 min. After stirring, sodium triacetoxyborohydride (12.0 g) was added, and the mixture was stirred for 18 hr. Acetic acid was evaporated and ethyl acetate and water were added to the residue. The mixture was neutralized with sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (1.27 g, 9%).

reactant | 1-benzyl-1H-pyrazol-5-amine | 6.3 g | C(C1=CC=CC=C1)N1N=CC=C1N | C10H11N3
reactant | 4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexanone | 10 g | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)=O | C12H24O2Si
reactant | sodium triacetoxyborohydride | 12.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
product | 1-benzyl-N-(4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-5-amine | 1.27 g, 9% | C(C1=CC=CC=C1)N1N=CC=C1NC1CCC(CC1)O[Si](C)(C)C(C)(C)C | C22H35N3OSi
